* C:\Users\konta\Desktop\LightAlarm\External Light\Draft1.asc
I1 0 N001 PULSE(0 10 0 1u 1u .1 .3)
R1 N001 0 1
R2 N002 0 100k
R3 N002 N001 1k
C1 N002 0 10µF
.tran .2
.backanno
.end
