* C:\Users\konta\Desktop\LightAlarm\External Light\LED dimmer using MOSFET PWM - with current mirror.asc
MOSFET1 N006 N007 0 0 IRF510
Vcc N001 0 12
V§Arduino-PWM N007 0 PULSE(0 5 0 0 0 0.075 0.1)
Rg 0 N007 10k
D§LED1 N001 N002 LUW-W5AP
D§LED2 N001 N003 LUW-W5AP
Q1 N002 N002 N005 0 NPN
Q2 N003 N002 N005 0 NPN
R2 N005 N006 50
Q3 N004 N002 N005 0 NPN
D§LED3 N001 N004 LUW-W5AP
.model D D
.lib C:\Users\konta\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\konta\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\konta\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
* Current mirror sets current through LEDs and ensures that all LED wires have same current.\n \nJust need to ensure that LEDs still have enough voltage across.
.backanno
.end
